US07728003B2
Step A. 8-Cyclohexyl-5-oxo-2-(2-pyrrolidin-1-yl-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure outlined in Example 28 Step F, the title compound was prepared from 2-pyrrolidin-1-yl-ethylamine and 8-cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (25 mg, 0.07 mmol). 8-Cyclohexyl-5-oxo-2-(2-pyrrolidin-1-yl-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid (18 mg, 80%). Mass Spectrum (LCMS, ESI pos.) Calcd. For C22H31N5O3: 414.24 (M+H). Found: 414.3.

reactant | 2-pyrrolidin-1-yl-ethylamine | N1(CCCC1)CCN | C6H14N2
reactant | 8-cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.07 mmol, 25 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C1CCCCC1)=O | C17H21N3O5S
product | 8-Cyclohexyl-5-oxo-2-(2-pyrrolidin-1-yl-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCCN2CCCC2)N(C1)C1CCCCC1)=O | C22H31N5O3
